US09403835B2
Step 2: 5-fluoro-2-(2-pyridazin-3-yl-ethoxy)-benzoic acid
NaOH (87 mg; 2.17 mmol; 10 eq.) was added to a solution of 5-fluoro-2-(2-pyridazin-3-yl-ethoxy)-benzoic acid methyl ester (60 mg; 0.22 mmol; 1 eq.) on THF (1 mL) and the reaction mixture was stirred at room temperature for 16 hours. The solution was diluted with water acidified with 0.1M HCl and extracted with DCM (3×). The combined organics were dried over magnesium sulfate and concentrated in vacuo to give the title compound (57 mg, quantitative) as a yellow solid which was used without further purification. UPLC/MS: (MS+) 263.2 ([M+H]+).

reactant | NaOH | 2.17 mmol, 87 mg, 10 eq. | [OH-].[Na+]
reactant | 5-fluoro-2-(2-pyridazin-3-yl-ethoxy)-benzoic acid methyl ester | 0.22 mmol, 60 mg, 1 eq. | COC(C1=C(C=CC(=C1)F)OCCC=1N=NC=CC1)=O | C14H13FN2O3
reactant | HCl | 0.1M | Cl | ClH
solvent | water | O | H2O
product | 5-fluoro-2-(2-pyridazin-3-yl-ethoxy)-benzoic acid | 57 mg | FC=1C=CC(=C(C(=O)O)C1)OCCC=1N=NC=CC1 | C13H11FN2O3
